US07241791B2
Step 2: 4-[1-isopropyl-7-(trifluoromethyl)-1H-indazol-3-yl]benzene-1,3-diol
Prepared according to Method D step C from 3-(2,4-dimethoxyphenyl)-1-isopropyl-7-(trifluoromethyl)-1H-indazole (0.442 g, 1.2 mmol), boron tribromide (0.688 mL, 7.27 mmol) and 1.0 mL of cyclohexene to give the product (0.268 g) as an off-white solid.

reactant | 3-(2,4-dimethoxyphenyl)-1-isopropyl-7-(trifluoromethyl)-1H-indazole | 1.2 mmol, 0.442 g | COC1=C(C=CC(=C1)OC)C1=NN(C2=C(C=CC=C12)C(F)(F)F)C(C)C | C19H19F3N2O2
reactant | boron tribromide | 7.27 mmol, 0.688 mL | B(Br)(Br)Br | BBr3
reactant | cyclohexene | 1.0 mL | C1=CCCCC1 | C6H10
product | 4-[1-isopropyl-7-(trifluoromethyl)-1H-indazol-3-yl]benzene-1,3-diol | 0.268 g | C(C)(C)N1N=C(C2=CC=CC(=C12)C(F)(F)F)C1=C(C=C(C=C1)O)O | C17H15F3N2O2
